US06197729B1
g) cis-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexylamine
At 50° C. and a hydrogen pressure of 30 bar, 33.6 g of cis-1-benzylamino-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexane were hydrogenated in the presence of 2 g of palladium (10% on carbon) in 250 ml of methanol. The catalyst was filtered off and the mixture was concentrated to give the title product as a colourless oil.

reactant | hydrogen | [H][H] | H2
reactant | cis-1-benzylamino-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexane | 33.6 g | C(C1=CC=CC=C1)N[C@@H]1CC[C@@H](CC1)C(C(F)(F)F)O | C15H20F3NO
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium | 2 g | [Pd] | Pd
product | cis-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexylamine | OC(C(F)(F)F)[C@H]1CC[C@H](CC1)N | C8H14F3NO
